US05096899
4-Methylthio-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one
1.17 g (16.7 mmol) of the Na salt of methyl mercaptan are added to a solution of 4.48 g (11.1 mmol) of 4-(2-hydroxyethylsulphonyl)-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one in 11 ml of acetonitrile and 11 ml of H2O at 0° C., and the mixture is stirred at 0° C. for 20 minutes. The reaction mixture is diluted with 100 ml of methylene chloride and 25 ml of H2O, and, after separating off the organic phase, the aqueous phase is extracted three times with 25 ml of methylene chloride in each case. The combined organic phases are dried over MgSO4, filtered and the solvent is removed in vacuo, to give 3.80 g of the title compound as a slightly yellowish non-crystalline compound. NMR spectrum in CDCl3 : δ=1.45 (d, J=7 Hz, 3 H), 2.12 (s, 3 H), 3.3 (dd, J=7 Hz, J=2 Hz), 4.70 (d, J=2 Hz, 1 H), 5.12 (m, 1 H), 5.20 (s, 2 H), 6.45 (broad s, 1 H), 7.50 (d, J=8.5 Hz, 2 H), 8.20 (d, J=8.5 Hz, 2 H).

reactant | methyl mercaptan | CS | CH4S
reactant | 4-(2-hydroxyethylsulphonyl)-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one | 11.1 mmol, 4.48 g | OCCS(=O)(=O)C1C(C(N1)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O9S
solvent | acetonitrile | 11 ml | C(C)#N | C2H3N
solvent | H2O | 11 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 ml | O | H2O
product | 4-Methylthio-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one | 3.80 g | CSC1C(C(N1)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O6S
